US07632840B2
1-(tert-Butoxycarbonyl)-4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]piperidine-4-carboxylic acid was reacted with paraformaldehyde using an analogous method to that described for the equivalent step in Example 11 to give 1-(tert-butoxycarbonyl)-4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-4-carboxylic acid; 1H NMR Spectrum: (DMSO-d6) 1.39 (s, 9H); 1.80 (m, 2H); 2.00 (m, 2H); 2.26 (s, 3H); 3.18 (m, 2H); 3.62 (m, 2H); 3.73 (s, 2H); 3.94 (s, 3H); 7.20 (s, 1H); 7.29 (t, 1H); 7.50 (t, 1H); 7.56 (t, 1H); 8.30 (s, 1H); 8.43 (s, 1H); 9.73 (s, 1H); 12.70 (brs, 1H). Mass Spectrum: (M+H)+ 574.

reactant | 1-(tert-Butoxycarbonyl)-4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)NCC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C27H31ClFN5O5
reactant | paraformaldehyde | C=O | CH2O
product | 1-(tert-butoxycarbonyl)-4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)N(C)CC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C28H33ClFN5O5
